US07691877B2
[2-Amino-6-(4-methyl-oxazol-2-yl )-3-nitro-pyridin-4-yl]-(3-cyano-benzyl)-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 70, using 4-methyl-oxazole (40 mg), (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester (100 mg) and palladium bis(triphenylphosphine)dichloride (30 mg), giving the product (65 mg) as a yellow solid.

reactant | 4-methyl-oxazole | 40 mg | CC=1N=COC1 | C4H5NO
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester | 100 mg | C(C)OC(N(CC1=CC(=CC=C1)C#N)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C16H14BrN5O4
catalyst | palladium bis(triphenylphosphine)dichloride | 30 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
product | [2-Amino-6-(4-methyl-oxazol-2-yl )-3-nitro-pyridin-4-yl]-(3-cyano-benzyl)-carbamic acid ethyl ester | C(C)OC(N(CC1=CC(=CC=C1)C#N)C1=C(C(=NC(=C1)C=1OC=C(N1)C)N)[N+](=O)[O-])=O | C20H18N6O5
